US07091227B2
2-[(Ethylamino)Carbonyl]amino-1,3-benzothiazole-6-carboxylic acid
About 60 mg N-(6-cyano-1,3-benzothiazol-2-yl)-N′-ethylurea was charged into about 5 mL of about a 1:1 mixture of about 2N aq KOH and dioxane. The reaction mixture was then brought to reflux for about 12–24 hours. Upon cooling, the reaction mixture was poured into about 25 mL of dilute aqueous acid. The white precipitate was collected by filtration and was washed well with water. 1H NMR 1.09 (t, 3H), 3.19 (m, 2H), 6.79 (br s, 1H), 7.65 (d, 1H), 7.92 (m, 1H), 8.48 (d, 1H), 11.0 (br s, 1H), 12.8 (br s, 1H); LC/MS 2.12 min, 266 (M+1), 264 (M−1), lab LC retention time 4.7 minutes.

reactant | N-(6-cyano-1,3-benzothiazol-2-yl)-N′-ethylurea | 60 mg | C(#N)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C11H10N4OS
reactant | KOH | about 2N | [OH-].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 2-[(Ethylamino)Carbonyl]amino-1,3-benzothiazole-6-carboxylic acid | C(C)NC(=O)NC=1SC2=C(N1)C=CC(=C2)C(=O)O | C11H11N3O3S
